US05395969
The method of Example 4, Stage 1, was followed except that there was used 4.7 g of POCl3, 13.6 g of DMF, and in place of triphenylamine there was used N,N-diphenyl-1-naphthylamine (MW 295, 0.031M, 9.2 g) to give 4 g (40% yield) of 1-formyl-4-(N,N-diphenylamino) naphthalene as a yellow solid, m.p. 107°-110° C.

reactant | POCl3 | 4.7 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triphenylamine | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15N
reactant | N,N-diphenyl-1-naphthylamine | 0.031M, 9.2 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C22H17N
reactant | DMF | 13.6 g | CN(C)C=O | C3H7NO
product | 1-formyl-4-(N,N-diphenylamino) naphthalene | 4 g, 40% yield | C(=O)C1=CC=C(C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17NO
